US07271263B2
Into a reactor were fed 6.2 g (31.6 m moles) of 1-(4,6-dimethoxypyrimidine-2-yl)-2-propanone, 4.8 g (31.5 m moles) of 2-methoxymethylphenylhydrazine, 4.76 g (34.9 m moles) of zinc chloride and 60 ml of toluene. Refluxing was made for 2 hours with heating. After the completion of the reaction, the reaction mixture was cooled to room temperature. Water and ethyl acetate were added and phase separation was made. The ethyl acetate layer was concentrated. The resulting crystals were washed with diisopropyl ether to obtain 4.57 g (14.6 m moles) of 3-(4,6-dimethoxypyrimidine-2-yl)-2-methyl-7-metoxymethylindole. Yield: 46%

reactant | 1-(4,6-dimethoxypyrimidine-2-yl)-2-propanone | 6.2 g | COC1=NC(=NC(=C1)OC)CC(C)=O | C9H12N2O3
reactant | 2-methoxymethylphenylhydrazine | 4.8 g | COCC1=C(C=CC=C1)NN | C8H12N2O
reactant | toluene | 60 ml | C1(=CC=CC=C1)C | C7H8
reactant | Water | O | H2O
catalyst | zinc chloride | 4.76 g | [Cl-].[Zn+2].[Cl-]
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 3-(4,6-dimethoxypyrimidine-2-yl)-2-methyl-7-metoxymethylindole | 4.57 g, Yield: 46% | COC1=NC(=NC(=C1)OC)C1=C(NC2=C(C=CC=C12)COC)C | C17H19N3O3
